US07799894B2
(2) Synthesis of 2,3-di(2-thienyl)-5-(4-aminophenyl)aminoquinoxaline
2.2 g (5.1 mmol) of 2,3-di(2-thienyl)-5-(4-nitrophenyl)aminoquinoxaline was dissolved in 50 ml of tetrahydrofuran, and a reaction container was purged with nitrogen. Thereafter, 0.7 g of 5% Pd/C (hydrous) was added, followed by sufficient purging with nitrogen again. This system was purged with hydrogen, followed by reaction at room temperature for 5 hours. After completion of the reaction, the system was filtered, and the resulting filtration residue was washed with tetrahydrofuran and filtered again. The solvent was removed from the resulting filtrate, and a reaction product was extracted with a silica gel column.

reactant | 2,3-di(2-thienyl)-5-(4-nitrophenyl)aminoquinoxaline | 5.1 mmol, 2.2 g | S1C(=CC=C1)C1=NC2=CC=CC(=C2N=C1C=1SC=CC1)NC1=CC=C(C=C1)[N+](=O)[O-] | C22H14N4O2S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,3-di(2-thienyl)-5-(4-aminophenyl)aminoquinoxaline | S1C(=CC=C1)C1=NC2=CC=CC(=C2N=C1C=1SC=CC1)NC1=CC=C(C=C1)N | C22H16N4S2
